US04133809
1-(Diethylaminomethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one
3.35 g of 1-(Hydroxymethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one, methanesulfonate in 15 ml dimethylsulfoxide at 0° is added dropwise with stirring to 3 ml of diethylamine in 10 ml dimethylsulfoxide. The reaction is stirred at 20° for 2 hours, diluted with methylene chloride, washed with water and then saturated aqueous sodium chloride. After drying, the solvent is evaporated to give the title compound.

reactant | 1-(Hydroxymethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one | 3.35 g | OCC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)Cl | C17H13ClN4O2
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(Diethylaminomethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one | C(C)N(CC)CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)Cl | C21H22ClN5O
